US08703953B2
To a stirred solution of N-(4-chloro-5-formylpyridin-2-yl)acetamide (3 g, 15.11 mmol), (4-chloro-2-fluorophenyl)boronic acid (2.63 g, 15.11 mmol), cesium carbonate (9.84 g, 30.2 mmol) in a mixture of water (8 mL) and THF (25 mL) was added Pd(PPh3)4 (19.19 mg, 0.017 mmol) and the reaction was heated to 85° C. for 12 h. The reaction mixture was diluted with water and extracted with ethyl acetate (2×25 mL). The combined organic layers were washed with water, brine, dried over sodium sulphate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography using hexane/ethyl acetate as eluant yielding N-(4-(4-chloro-2-fluorophenyl)-5-formylpyridin-2-yl)acetamide (2.8 g, 9.01 mmol, 60% yield) as an off-white solid. LCMS (ESI) m/e 291.0 [(M)−, calcd for C14H9ClFN2O2 291.0] LC/MS retention time (method A): tR=1.69 min; 1H NMR (400 MHz, DMSO-d6) δ 11.14 (s, 1H), 9.84 (d, J=Hz, 1H), 8.88 (s, 1H), 8.13 (s, 1H), 7.61 (dd, J=2.00, 10.00 Hz, 1H), 7.46-7.48 (m, 2H), 2.11 (s, 3H).

reactant | N-(4-chloro-5-formylpyridin-2-yl)acetamide | 15.11 mmol, 3 g | ClC1=CC(=NC=C1C=O)NC(C)=O | C8H7ClN2O2
reactant | (4-chloro-2-fluorophenyl)boronic acid | 15.11 mmol, 2.63 g | ClC1=CC(=C(C=C1)B(O)O)F | C6H5BClFO2
reactant | cesium carbonate | 30.2 mmol, 9.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 8 mL | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.017 mmol, 19.19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-(4-(4-chloro-2-fluorophenyl)-5-formylpyridin-2-yl)acetamide | 9.01 mmol, 2.8 g, 60% yield | ClC1=CC(=C(C=C1)C1=CC(=NC=C1C=O)NC(C)=O)F | C14H10ClFN2O2
